US06339092B1
Step A: 4-[4-(Imidazol-1-yl)phenoxy]benzenesulphonic acid
137 mmol of 1-(4-phenoxyphenyl)imidazole are dissolved in 250 ml of chloroform. 190 mmol of chlorosulphonic acid are then added dropwise. The whole is left at 45° C. overnight. After cooling and removal of the solvent by evaporation, the resulting oil is taken up in diethyl ether. The resulting solid is filtered off and dried to yield the expected product.

reactant | 1-(4-phenoxyphenyl)imidazole | 137 mmol | O(C1=CC=CC=C1)C1=CC=C(C=C1)N1C=NC=C1 | C15H12N2O
reactant | chlorosulphonic acid | 190 mmol | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(Imidazol-1-yl)phenoxy]benzenesulphonic acid | N1(C=NC=C1)C1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)O)C=C1 | C15H12N2O4S
